US07601870B2
4a N-[2,6-Dimethyl-4-(4-trifluoromethyl-benzylamino)-phenyl]-acetamide
N-(4-Amino-2,6-dimethyl-phenyl)-acetamide (1.2 g) and 4-trifluoromethyl-benzaldehyde (1.3 g) were dissolved in ethanol (100 mL) and refluxed for 16 h. The reaction mixture was poured into water (3 L) and the precipitate collected by filtration. Sodium cyanoborohydride (2 g) and acetic acid (2 mL) were added to the precipitate dispersed in methanol (50 mL) and stirred for 15 minutes. The reaction mixture was filtered, water (100 mL) was added and the organic solvent was removed in vacuo. The product was allowed to precipitate at 25° C. and collected by filtration and washed with water (200 mL) to furnish 0.68 g (30% yield) of the title compound as a pale yellow solid. LC-MS (m/z) 337 (MH+); tR=2.39, (UV, ELSD) 99%, 99%. 1H NMR (500 MHz, DMSO-d6): 1.95 (s, 3H), 1.96 (s, 6H), 4.34 (d, 2H), 6.18 (t, 1H), 6.25 (s, 2H), 7.55 (d, 2H), 7.69 (d, 2H), 8.81 (s, 1H).

reactant | N-(4-Amino-2,6-dimethyl-phenyl)-acetamide | 1.2 g | NC1=CC(=C(C(=C1)C)NC(C)=O)C | C10H14N2O
reactant | 4-trifluoromethyl-benzaldehyde | 1.3 g | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | water | 3 L | O | H2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | N-[2,6-Dimethyl-4-(4-trifluoromethyl-benzylamino)-phenyl]-acetamide | 0.68 g, 30% yield | CC1=C(C(=CC(=C1)NCC1=CC=C(C=C1)C(F)(F)F)C)NC(C)=O | C18H19F3N2O
